US06815451B2
N-[2-(3,5-Dimethoxy-phenyl)-ethyl]-3-(4-fluoro-phenyl)-propionamide
2-(3,5-Dimethoxy-phenyl)ethylamine (1.20 g, 6.62 mmol) is dissolved in anhydrous DMF (50 mL), and 3-(4-fluorophenyl) propionic acid (1.113 g, 6.62 mmol), PyBOP (3.77 g) and DIPEA (2.61 mL, 15 mmol) are added. The mixture is stirred at rt for 14 h. Water (60 mL) is added, and the mixture is extracted with EtOAc (4×60 mL). The combined organic phases are washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The residue is purified by silica gel column chromatography (EtOAc/Hex, 7:3) to afford the title compound as a yellow oil.

reactant | 2-(3,5-Dimethoxy-phenyl)ethylamine | 6.62 mmol, 1.20 g | COC=1C=C(C=C(C1)OC)CCN | C10H15NO2
reactant | 3-(4-fluorophenyl) propionic acid | 6.62 mmol, 1.113 g | FC1=CC=C(C=C1)CCC(=O)O | C9H9FO2
reactant | PyBOP | 3.77 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 15 mmol, 2.61 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | Water | 60 mL | O | H2O
product | N-[2-(3,5-Dimethoxy-phenyl)-ethyl]-3-(4-fluoro-phenyl)-propionamide | COC=1C=C(C=C(C1)OC)CCNC(CCC1=CC=C(C=C1)F)=O | C19H22FNO3
